US09359329B2
To a solution of 5 g (40.9 mmol) of 4-ethylpyridin-2-amine in 10 mL of concentrated H2SO4 at 0° C. are added 8 mL of an H2SO4/HNO3 mixture (1/1) at a temperature of between 0 and 10° C., and stirring is maintained for 1 hour at 0° C. The reaction medium is then poured onto 100 g of ice and the white precipitate obtained is filtered off and washed successively with 10 mL of water, 10 mL of Et2O and 10 mL of pentane. The solid obtained is taken up in 100 mL of 100N NaOH at 0° C., 7.76 g (187 mmol) of zinc powder are added and the reaction medium is then stirred for 3 hours at 0° C. The reaction medium is then filtered through Celite and the filtrate is extracted with EtOAc (3×200 mL). The organic phases are combined, dried over Na2SO4, filtered and then concentrated under reduced pressure. 4.3 g of 4-ethyl-2-hydrazinopyridine are obtained in the form of a red oil, which is used without further purification in the following step.

reactant | 4-ethylpyridin-2-amine | 40.9 mmol, 5 g | C(C)C1=CC(=NC=C1)N | C7H10N2
reactant | H2SO4 HNO3 | 8 mL | OS(=O)(=O)O.[N+](=O)(O)[O-]
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
solvent | NaOH | 100N, 100 mL | [OH-].[Na+]
catalyst | zinc | 187 mmol, 7.76 g | [Zn] | Zn
product | 4-ethyl-2-hydrazinopyridine | 4.3 g, Yield=77% | C(C)C1=CC(=NC=C1)NN | C7H11N3
